US08809369B2
To a stirred solution of morpholine (5.2 mL, 59.7 mmol) and triethylamine (11.2 mL, 79.6 mmol) in dichloromethane (300 mL) was added the solution of 4-nitro-benzenesulfonyl chloride (8.8 g, 39.8 mmol) in dichloromethane (50 mL) at 0° C. The mixture solution was stirred at room temperature for 4 h and then washed with brine (50 mL×2) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to afford 4-(4-nitro-benzenesulfonyl)-morpholine (10.0 g, 92.5%) as a white powder: MS (ESI) M+1=273.0.

reactant | morpholine | 59.7 mmol, 5.2 mL | N1CCOCC1 | C4H9NO
reactant | triethylamine | 79.6 mmol, 11.2 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitro-benzenesulfonyl chloride | 39.8 mmol, 8.8 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-(4-nitro-benzenesulfonyl)-morpholine | 10.0 g, 92.5% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C10H12N2O5S
